US05186717
b) Preparation of 2-amino-3-nitro-N-methyl-N-tosylaniline
0.093 mol (28.5 g) of 2-amino-3-nitro-N-tosylaniline is dissolved in 112 ml of normal sodium hydroxide solution at 30° C. 0.122 mol (15.45 g) of methyl sulphate is added gradually, in the course of 1 hour 30 minutes, whilst stirring. The temperature remains between 35° and 40° C. Towards the end of the addition of the methyl sulphate, 3 ml of 10N sodium hydroxide solution are gradually added simultaneously in order to keep the pH alkaline.

reactant | 2-amino-3-nitro-N-tosylaniline | 0.093 mol, 28.5 g | NC1=C(NS(=O)(=O)C2=CC=C(C)C=C2)C=CC=C1[N+](=O)[O-] | C13H13N3O4S
reactant | methyl sulphate | 0.122 mol, 15.45 g | S(=O)(=O)(OC)[O-]
solvent | sodium hydroxide | 112 ml | [OH-].[Na+]
solvent | sodium hydroxide | 10N, 3 ml | [OH-].[Na+]
product | 2-amino-3-nitro-N-methyl-N-tosylaniline | NC1=C(N(S(=O)(=O)C2=CC=C(C)C=C2)C)C=CC=C1[N+](=O)[O-] | C14H15N3O4S
